data/mechanism_extracts/OrgChemFront/10.1039_d3qo01935g.json
{"doi": "10.1039_d3qo01935g", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrode-switchable electrochemical regiodivergent β-azidoiodination (Markovnikov vs anti-Markovnikov) of alkenes with TMSN3 and Bu4NI, where the anode material (Pt vs graphite) controls regiochemistry", "mechanism_family": ["mediator_anodic", "radical_anodic", "cation_initiated", "radical_polar_crossover"], "electrochemical_role": "On graphite anode: I- is oxidized to I2, which forms an iodonium ion with the alkene (polar/cationic Markovnikov path to 2a). On Pt anode: I- is oxidized to hypervalent IO4-, which oxidizes TMSN3 to generate an azide radical that adds to the alkene to give an α-C radical, subsequently trapped by I·/I2 (radical anti-Markovnikov path to 3a).", "key_intermediates": [{"name": "I2 generated by anodic oxidation of I-", "smiles": "II", "role": "reactive"}, {"name": "iodonium ion intermediate A from alkene + I2", "smiles": null, "role": "reactive"}, {"name": "β-iodo-α-azido cationic intermediate C (Markovnikov, from N3- opening of iodonium)", "smiles": null, "role": "transient"}, {"name": "hypervalent iodine species IO4- formed on Pt anode", "smiles": "[O-]I(=O)(=O)=O", "role": "reactive"}, {"name": "azide radical (·N3) from IO4- oxidation of TMSN3", "smiles": "[N]=[N+]=[N-]", "role": "reactive"}, {"name": "α-carbon radical intermediate B from ·N3 addition to alkene", "smiles": null, "role": "reactive"}], "electron_flow": "On graphite: anode oxidizes I- to I2, which forms an iodonium with the alkene; azide opens it at the more substituted carbon to give Markovnikov β-azido-α-iodo product 2a. On Pt: anode oxidizes I- further to hypervalent IO4-, which oxidizes TMSN3 to azide radical; ·N3 adds to alkene producing α-carbon radical B that is captured by I·/I2 to deliver anti-Markovnikov product 3a.", "rate_determining_step": null, "probe_reagents": [{"name": "N-allyl amide substrate 4 (radical clock / cyclization probe)", "smiles": null, "purpose": "radical_clock", "observation": "Under graphite anode standard conditions afforded iodocyclization product 6 (80%), consistent with I2/iodonium pathway; with Pt anode, 6 was not formed (0%), indicating different active iodine species (IOx- on Pt)"}, {"name": "NaIO4 (chemical oxidant surrogate for hypervalent iodine)", "smiles": "[O-]I(=O)(=O)=O.[Na+]", "purpose": "intermediate_trap", "observation": "Replacing electrolysis with NaIO4 + styrene + TMSN3 gave 3a in 15% yield; with NaIO4 + I2 + Bu4NI gave 3a in 58%, supporting IO4- as the active oxidant on Pt"}, {"name": "NaIO3", "smiles": "[O-]I(=O)=O.[Na+]", "purpose": "redox_probe", "observation": "Ineffective; no reaction, indicating IO3- is not the operative oxidant"}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "stoichiometric_intermediate", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "CV showed two oxidation peaks at ~0.58 and 0.86 V (I- → I2 stepwise) on carbon, and an additional higher oxidation at ~2.23 V on Pt that intensified upon TMSN3 addition, supporting formation of hypervalent IO4- on Pt. A minor competing pathway on Pt is direct anodic oxidation of TMSN3 to azide radical, but CV did not show this on graphite. Oxidation of B to carbocation C (radical-polar crossover) cannot be ruled out, but control experiments favor radical trapping of B by I·/I2 to give anti-Markovnikov 3a."}
